US06251947B1
Step A: Preparation of 2-fluoro-3-methyl-2-butenyl cyanoacetate
A solution of cyano acetic acid (2.25 g, 26.4 mmol) in 30 mL dry CH2Cl2 was cooled in ice water before 2.3 mL (26.4 mmol) of oxalyl chloride and 3 drops of DMF were added. The mixture was warmed to room temperature with stirring overnight before being added dropwise to an ice-cooled solution of 2.5 g (24 mmol) of 2-fluoro-4-methyl-2-buten-1-ol (Cane, D. E.; Yang, G.; Xue, Q.; Shin, J. H. Biochemistry (1995), 3418, 2471-9) and 3.7 mL (26.4 mmol) triethylamine. After stirring 3 h at room temperature, solvent was removed and the residue was partitioned between water and ether. The ether layer was separated and washed with brine. The combined aqueous washings were extracted with ether which was washed with brine. The combined ether extracts were dried (MgSO4), and solvent was removed to afford 3.5 g of the title compound of Step A as an oil, 1 H NMR (CDCl3) δ 1.7 (m, 6H), 3.5 (s, 2H), 4.85 (d, J=22 Hz, 2H).

reactant | cyano acetic acid | 26.4 mmol, 2.25 g | C(#N)CC(=O)O | C3H3NO2
reactant | oxalyl chloride | 26.4 mmol, 2.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-fluoro-4-methyl-2-buten-1-ol | 24 mmol, 2.5 g | FC(CO)=CCC | C5H9FO
reactant | triethylamine | 26.4 mmol, 3.7 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-fluoro-3-methyl-2-butenyl cyanoacetate | 3.5 g | C(#N)CC(=O)OCC(=C(C)C)F | C8H10FNO2
